US07592453B2
N-((1R,2S)-2-{[4-(3-Thienyl)-2,3-dihydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)benzamide
A mixture of N-((1R,2S)-2-{[(3aR*,4R*,9bR*)-4-(3-thienyl)-2,3,3a, 4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)benzamide and N-((1R,2S)-2-{[(3aS*,4R*,9bS*)-4-(3-thienyl)-2,3,3a, 4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)benzamide (422 mg, 0.87 mmol) was dissolved in toluene (30 ml), manganese dioxide (7.6 g, 87 mmol) was added and the mixture was refluxed overnight. The reaction mixture was filtered through celite and washed with methanol. The filtrate was concentrated under reduced pressure. The residue was subjected to column chromatography using silica gel (30 g), and eluted with hexane-ethyl acetate (9:1-2:1, v/v). Crystallization from diisopropy ether gave the title compound (70 mg, 17%) as pale-brown crystals.

reactant | N-((1R,2S)-2-{[(3aR*,4R*,9bR*)-4-(3-thienyl)-2,3,3a, 4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)benzamide | S1C=C(C=C1)[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)[C@@H]2[C@@H](CCCC2)NC(C2=CC=CC=C2)=O | C29H31N3O2S
reactant | N-((1R,2S)-2-{[(3aS*,4R*,9bS*)-4-(3-thienyl)-2,3,3a, 4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)benzamide | 0.87 mmol, 422 mg | S1C=C(C=C1)[C@@H]1NC=2C=CC=CC2[C@@H]2[C@H]1CCN2C(=O)[C@@H]2[C@@H](CCCC2)NC(C2=CC=CC=C2)=O | C29H31N3O2S
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 87 mmol, 7.6 g | [O-2].[O-2].[Mn+4]
product | N-((1R,2S)-2-{[4-(3-Thienyl)-2,3-dihydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)benzamide | 70 mg, 17% | S1C=C(C=C1)C1=NC=2C=CC=CC2C2=C1CCN2C(=O)[C@@H]2[C@@H](CCCC2)NC(C2=CC=CC=C2)=O | C29H27N3O2S
